US06136821
C. 6-(4-carboxyphenyl)-8-methoxy-1,7-naphthyridine
To a solution of 6-trifluoromethylsulfonyloxy-8-methoxy-1,7-napthyridine (1.5 g, 4.86 mmol) in DMF (40 ml) is added 4-carboxy-phenylboronic acid (0.866 g, 5.34 mmol), bis(dibenzylidenacetone) palladium (112 mg, 0.167 mmol), tri-o-tolylphosphine (96 mg, 0.32 mmol) and aqueous Na2CO3 (14.6 ml, 2N,). The reaction mixture is stirred at 110° for 3 h. The hot solution is filtred through cellit and the solution evaporated to dryness. The crude product is dissolved in hot water (60 ml) and the water phase washed with ethyl acetate (3×50 ml). The product is precipitated from the water phase by carefully adding aqueous HCl (2N, 6 ml). The suspension is filtered and the crude product is stirred again in hot ethyl acetate (50 ml). The cold suspension is filtered to yield the title compound (1.10 g). M+280; Melting point >300°.

reactant | 6-trifluoromethylsulfonyloxy-8-methoxy-1,7-napthyridine | 4.86 mmol, 1.5 g | FC(S(=O)(=O)OC=1C=C2C=CC=NC2=C(N1)OC)(F)F | C10H7F3N2O4S
reactant | 4-carboxy-phenylboronic acid | 5.34 mmol, 0.866 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | Na2CO3 | 2N, 14.6 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | bis(dibenzylidenacetone) palladium | 0.167 mmol, 112 mg | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | tri-o-tolylphosphine | 0.32 mmol, 96 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | 6-(4-carboxyphenyl)-8-methoxy-1,7-naphthyridine | 1.10 g | C(=O)(O)C1=CC=C(C=C1)C=1C=C2C=CC=NC2=C(N1)OC | C16H12N2O3
